US09102637B2
(e) 2-[methyl(quinolin-6-yl)amino]-5-[4-(4-methylpiperazin-1-yl]benzamido)thiazole-4-carboxamide
A mixture of 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)amino]thiazole-4-carboxamide (100 mg, 0.24 mmol) and 1-methyl-piperazine (110 mg, 1.10 mmol) in NMP (3 mL) was heated at 150° C. for 1.5 hrs. The reaction mixture was diluted with ice-water (5 mL), and the resulting solids were collected by filtration and washed successively with water and ether to give 0.065 g (54% yield) of the titled compound.

reactant | 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)amino]thiazole-4-carboxamide | 0.24 mmol, 100 mg | FC1=CC=C(C(=O)NC2=C(N=C(S2)N(C=2C=C3C=CC=NC3=CC2)C)C(=O)N)C=C1 | C21H16FN5O2S
reactant | 1-methyl-piperazine | 1.10 mmol, 110 mg | CN1CCNCC1 | C5H12N2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 2-[methyl(quinolin-6-yl)amino]-5-[4-(4-methylpiperazin-1-yl]benzamido)thiazole-4-carboxamide | 0.065 g, 54% yield | CN(C=1SC(=C(N1)C(=O)N)NC(C1=CC=C(C=C1)N1CCN(CC1)C)=O)C=1C=C2C=CC=NC2=CC1 | C26H27N7O2S
